US05846982
5-cyano-3-(1,2,5,6-tetrahydropyridin-4-yl)-1H-indole
To a solution of 8.8 gm (157 mMol) potassium hydroxide in 85 mL methanol were added 8.15 gm (57.33 mMol) 5-cyano-1H-indole and 7.86 gm (51.17 mMol) 4-piperidone hydrochloride monohydrate. The resulting mixture was heated to reflux for 48 hours and was then allowed to cool to room temperature. The reaction mixture was concentrated under reduced pressure to about half volume and was then treated with 1M HCl until the pH of the solution was between 1 and 2. The resulting solution was extracted twice with 100 mL of diethyl ether and the remaining aqueous phase was treated with 5N sodium hydroxide until the pH of the solution was between 12 and 14. This aqueous phase was extracted 5 times with 10% methanol in dichloromethane. These organic phases were combined, dried over sodium sulfate and concentrated under reduced pressure to a residue. This residue was subjected to flash silica gel chromatography, eluting with dichloromethane which contained 20% methanol and 2% ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure to give 6.86 gm (60%) of the title compound as a solid.

reactant | potassium hydroxide | 157 mMol, 8.8 gm | [OH-].[K+]
reactant | 5-cyano-1H-indole | 57.33 mMol, 8.15 gm | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | 4-piperidone hydrochloride monohydrate | 51.17 mMol, 7.86 gm | O.Cl.N1CCC(CC1)=O
solvent | methanol | 85 mL | CO | CH4O
product | 5-cyano-3-(1,2,5,6-tetrahydropyridin-4-yl)-1H-indole | 6.86 gm, 60% | C(#N)C=1C=C2C(=CNC2=CC1)C1=CCNCC1 | C14H13N3
